US09359362B2
(7R)-7-(4-Cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]-pyrimidine-6-carbonitrile
The reaction was carried out under argon. (7R)-7-(4-Cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]pyrimidine-6-carboxamide (34 mg, 80 μmol) was initially charged in dry THF (1.9 ml), methoxycarbonylsulfamoyltriethylammonium hydroxide (Burgess reagent; 76 mg, 320 μmol, 4 eq.) was added and the mixture was stirred at RT for 1 h. HPLC showed complete conversion. The reaction mixture was then concentrated and the residue was purified by preparative HPLC (Gromsil C18 column, 10 μm; mobile phase: acetonitrile/water+0.1% TFA 10:90→90:10). The title compound was obtained as a solid (29 mg, 89% of theory).

reactant | (7R)-7-(4-Cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]pyrimidine-6-carboxamide | 80 μmol, 34 mg | C(#N)C1=CC=C(C=C1)[C@@H]1C(=C(N(C=2N1N=NN2)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)N | C20H14F3N7O
reactant | methoxycarbonylsulfamoyltriethylammonium hydroxide | 320 μmol, 76 mg, 4 eq. | [OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
solvent | THF | 1.9 ml | C1CCOC1 | C4H8O
product | (7R)-7-(4-Cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]-pyrimidine-6-carbonitrile | C(#N)C1=CC=C(C=C1)[C@@H]1C(=C(N(C=2N1N=NN2)C2=CC(=CC=C2)C(F)(F)F)C)C#N | C20H12F3N7
